US07605172B2
Step 2: 5-({[1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}methyl)-1H-tetraazole.
A mixture of {[1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}acetonitrile (277 mg, 0.658 mmol), prepared in the previous step, sodium azide (128 mg, 1.96 mmol) and ammonium chloride (110 mg, 2.05 mmol) in 15 mL of DMF was stirred under nitrogen at 100° C. for 4 h. The reaction was filtered and then 5 mL of 1 N HCl added to the filtrate followed by the addition of 20 mL of water. The solid present was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (276 mg, 82%) as an off-white solid, mp 227-231° C. Elemental Analysis for C21H14BrN5OS+0.48 C3H7NO+0.47H2O Calc'd: C, 53.07; H, 3.63; N, 15.11. Found: C, 53.08; H, 3.61; N, 14.91.

reactant | {[1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}acetonitrile | 0.658 mmol, 277 mg | BrC1=C(C=CC2=CC(=CC=C12)C=1N=C(SC1)C1=CC=CC=C1)OCC#N | C21H13BrN2OS
reactant | sodium azide | 1.96 mmol, 128 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.05 mmol, 110 mg | [Cl-].[NH4+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-({[1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}methyl)-1H-tetraazole | 276 mg, 82% | BrC1=C(C=CC2=CC(=CC=C12)C=1N=C(SC1)C1=CC=CC=C1)OCC1=NN=NN1 | C21H14BrN5OS
